* Test DC mode support for ERR, ERR1 and ERR2 Measures
*
* This bug covers:
*   1) the case of one variable in the .DC line,
*      without a .STEP statement.  The sweep variable
*      is ascending.
*
*   2) the use of FROM and TO statements.
*
*   3) Use of a global parameter.
*
*   4) That the WEIGHT qualifier has no effect on the
*      measure values, and does not cause parsing errors.
*
* See SON Bug 1278 for more details.
**********************************************************

.GLOBAL_PARAM P1=2.5

V3 3 0 2.5
R3 3 0 1

.DC V1 -5 5 1
.PRINT DC V(1) V(2) V(3) I(R1) I(R3)

V1 1 0 1
R1 1 2 1
R2 2 0 3

* ERR and ERR1 measures
.MEASURE DC ERR ERR V(1) V(2)
.MEASURE DC ERR1 ERR1 V(1) V(2)
.MEASURE DC ERR1WT ERR1 V(1) V(2) WEIGHT=2
.MEASURE DC ERR1RO ERR1 V(2) V(1)
.MEASURE DC ERR1MV1.5 ERR1 V(1) V(2) MINVAL=1.5
.MEASURE DC ERR1YMIN2.5 ERR1 V(1) V(3) YMIN=2.5
.MEASURE DC ERR1IGNOR2.5 ERR1 V(1) V(3) IGNOR=2.5
.MEASURE DC ERR1YMAX3.5 ERR1 V(1) {P1} YMAX=3.5
.MEASURE DC ERR1From ERR1 PAR('V(1)*V(1)') V(1) FROM=3
.MEASURE DC ERR1To ERR1 PAR('V(1)*V(1)') V(1) TO=3
.MEASURE DC ERR1FT ERR1 {V(1)*V(1)} V(1) FROM=0 TO=4
.MEASURE DC ERR1TF ERR1 {V(1)*V(1)} V(1) FROM=4 TO=0

* ERR2 measures
.MEASURE DC ERR2 ERR2 V(1) V(2)
.MEASURE DC ERR2WT ERR2 V(1) V(2) WEIGHT=2
.MEASURE DC ERR2RO ERR2 V(2) V(1)
.MEASURE DC ERR2MV1.5 ERR2 V(1) V(2) MINVAL=1.5
.MEASURE DC ERR2YMIN2.5 ERR2 V(1) V(3) YMIN=2.5
.MEASURE DC ERR2IGNORE2.5 ERR2 V(1) V(3) IGNORE=2.5
.MEASURE DC ERR2YMAX3.5 ERR2 V(1) {P1} YMAX=3.5
.MEASURE DC ERR2From ERR2 PAR('V(1)*V(1)') V(1) FROM=3
.MEASURE DC ERR2To ERR2 PAR('V(1)*V(1)') V(1) TO=3
.MEASURE DC ERR2FT ERR2 {V(1)*V(1)} V(1) FROM=0 TO=4
.MEASURE DC ERR2TF ERR2 {V(1)*V(1)} V(1) FROM=4 TO=0

* Current OP
.MEASURE DC ERR1I ERR1 I(R1) I(R3)

* Tests should return -1 or -100, since the FROM-T0 window
* does not overlap with the stepped values for VSRC1:DCV0
.measure dc maxReturnNegOne ERR1 v(1) v(2) FROM=-8 TO=-6
.measure dc maxReturnNeg100 ERR2 v(1) v(2) FROM=8 TO=6 DEFAULT_VAL=-100

.END
